US09162994B2
(i) 1-[(3,4-dichlorophenyl)carbamothioyl]-1-[[3-(trifluoromethyl)phenyl]methyl]urea
To a solution of 3-trifluoromethyl benzyl urea (218 mg, 1 mmol) in dry THF (2 mL) under nitrogen was added dropwise n-BuLi (2.5 M in hexane, 0.4 mL). The mixture was stirred at RT for 30 min and then 3,4-dichlorophenyl isothiocyanate (204 mg, 1 mmol) in dry THF (2 mL) was added dropwise. HPLC analysis after 5 min revealed complete reaction to the expected product. Saturated NaHCO3 (5 mL) and Et2O (15 mL) were added and the phases were separated. The aqueous phase was extracted with Et2O (2×15 mL). The combined organic phases were washed with brine (5 mL) and were dried over MgSO4. Concentration in vacuo gave 412 mg of a yellow oil. Purification by flash chromatography (silica, 20-30% EtOAc in n-hexane) gave 193 mg (46%) of pure product according to 1H NMR.

reactant | 3-trifluoromethyl benzyl urea | 1 mmol, 218 mg | FC(C=1C=C(CNC(=O)N)C=CC1)(F)F | C9H9F3N2O
reactant | n-BuLi | 2.5 M, 0.4 mL | [Li]CCCC
reactant | 3,4-dichlorophenyl isothiocyanate | 1 mmol, 204 mg | ClC=1C=C(C=CC1Cl)N=C=S | C7H3Cl2NS
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-[(3,4-dichlorophenyl)carbamothioyl]-1-[[3-(trifluoromethyl)phenyl]methyl]urea | ClC=1C=C(C=CC1Cl)NC(=S)N(C(=O)N)CC1=CC(=CC=C1)C(F)(F)F | C16H12Cl2F3N3OS
